US07612092B2
N-(4-(6-Cyano-7-(3-carboxypropoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea
N-(4-(6-Cyano-7-(3-(ethoxycarbonyl)propoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea (800 mg) was dissolved in methanol (45 ml), 2N Noah water (15 ml) was added, and the mixture was heated and stirred for 40 minutes at 80° C. After completion of the reaction, the reaction solution was poured into ice water and neutralized with 1N Hal, and the precipitated solid was filtered out. The obtained solid was washed with water and dried to obtain 230 mg of the title compound.

reactant | N-(4-(6-Cyano-7-(3-(ethoxycarbonyl)propoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea | 800 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCC(=O)OCC)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C29H24F2N4O5
reactant | water | 15 ml | O | H2O
solvent | methanol | 45 ml | CO | CH4O
product | N-(4-(6-Cyano-7-(3-carboxypropoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea | 230 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCC(=O)O)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C27H20F2N4O5
